US05434160
A stirred suspension of 8-hydroxyquinoline (2.90 g) and 3,4-dimethoxy benzylidenemalononitrile(4.28 g) in ethanol (15 ml) was treated with piperidine (1.70 g) and the suspension stirred at room temperature for one hour. This mixture was then heated at reflux for 90 minutes. The red solution was then allowed to cool to room temperature overnight. The precipitated orange solid was filtered off and washed with ethanol and ether and dried in vacuo at 60° C., yielding 2-amino-4-(3,4-dimethoxyphenyl)-4H-pyrano[3,2-h]quinoline-3-carbonitrile as a tan solid, m.p. 118°-120° C.

reactant | 8-hydroxyquinoline | 2.90 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 3,4-dimethoxy benzylidenemalononitrile | 4.28 g | COC=1C=C(C=C(C#N)C#N)C=CC1OC | C12H10N2O2
reactant | piperidine | 1.70 g | N1CCCCC1 | C5H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-amino-4-(3,4-dimethoxyphenyl)-4H-pyrano[3,2-h]quinoline-3-carbonitrile | NC1=C(C(C=2C=CC=3C=CC=NC3C2O1)C1=CC(=C(C=C1)OC)OC)C#N | C21H17N3O3
